US06589967B1
Production of 1-(4-Chloro-6-methyl-2-pyridinyl)ethanone O-[(2,6-Dimethoxyphenyl)methyl] Oxime (Compound No. 18)
On the other hand, 1.66 g (9.0 mmol) of 1-(4-chloro-6-methyl-2-pyridinyl)ethanone oxime was dissolved in 15 ml of N,N-dimethylformamide, and the resultant solution was added with 0.18 g (4.39 mmol) of sodium hydride (60%, oiliness) while cooling the solution with ice. The mixture was stirred for 15 min. at a temperature below 0° C. and was added with the whole amount of the crude product of 2,6-dimethoxybenzyl chloride prepared previously while cooling the mixture with ice. The resultant mixture was stirred for 2.3 hours at a room temperature to complete a reaction. The reacted mixture was then poured into ice water. At that time, the target compound was precipitated in the ice water. The precipitation was taken out by filtering, washed with hexane and dried to thereby obtain the target compound in an amount of 2.3 g.

reactant | 1-(4-chloro-6-methyl-2-pyridinyl)ethanone oxime | 9.0 mmol, 1.66 g | ClC1=CC(=NC(=C1)C)C(C)=NO | C8H9ClN2O
reactant | sodium hydride | 4.39 mmol, 0.18 g | [H-].[Na+]
reactant | 2,6-dimethoxybenzyl chloride | COC1=C(CCl)C(=CC=C1)OC | C9H11ClO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chloro-6-methyl-2-pyridinyl)ethanone O-[(2,6-Dimethoxyphenyl)methyl] Oxime | COC1=C(C(=CC=C1)OC)CON=C(C)C1=NC(=CC(=C1)Cl)C | C17H19ClN2O3
